US05847025
bisphenol-A-glycidylmethacrylate (Bis-GMA)
urethane dimethacrylate (UDMA), prepared from 1 mole of 2,2,4-trimethylhexame-thylene diisocyanate and 2 moles of 2-hydroxyethyl methacrylate

reactant | urethane dimethacrylate | C(C(=C)C)(=O)O.C(C(=C)C)(=O)O.NC(=O)OCC
reactant | 2,2,4-trimethylhexame-thylene diisocyanate | 1 mole | CC(CN=C=O)(CC(CCN=C=O)C)C | C11H18N2O2
reactant | 2-hydroxyethyl methacrylate | 2 moles | C(C(=C)C)(=O)OCCO | C6H10O3
product | bisphenol-A glycidylmethacrylate | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O.C(C1CO1)OC(C(=C)C)=O | InChI=1S/C15H16O2.C7H10O3/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;1-5(2)7(8)10-4-6-3-9-6/h3-10,16-17H,1-2H3;6H,1,3-4H2,2H3
